US07109354B2
a) 4-Trifluoromethanesulfonylamino-butyric acid methyl ester
Trifluoromethanesulfonyl chloride (0.23 mL, 2.16 mmol) was added dropwise to a solution of 4-amino-butyric acid methyl ester hydrochloride (0.30 g, 1.96 mmol) and triethylamine (0.68 mL, 4.90 mmol) in dichloromethane and stirred at room temperature for 18 hours. 1N HCl was added and the product was extracted with dichloromethane, dried with magnesium sulfate and evaporated to give the title compound (0.42 g, 85%). 1H-NMR (CDCl3): δ 4.89 (s, 1H), 3.12 (t, 2H, J=7.2 Hz), 2.94 (s, 3H), 2.41 (t, 2H, J=7.2 Hz), 1.84 (m, 2H, J=7.2 Hz).

reactant | Trifluoromethanesulfonyl chloride | 2.16 mmol, 0.23 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | 4-amino-butyric acid methyl ester hydrochloride | 1.96 mmol, 0.30 g | Cl.COC(CCCN)=O
reactant | triethylamine | 4.90 mmol, 0.68 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Trifluoromethanesulfonylamino-butyric acid methyl ester | 0.42 g, 85% | COC(CCCNS(=O)(=O)C(F)(F)F)=O | C6H10F3NO4S
